US07538123B2
(2) Synthesis of N-methyl-1-(piperidin-4-yl)-1H-indole-6-carboxamide
1.77 g of N-methyl-1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxamide was dissolved in 30 ml of methanol. Then, 200 mg of 10% palladium carbon was added to the obtained solution. The reaction atmosphere was replaced by hydrogen, and it was then stirred at room temperature. After completion of the reaction, 10% palladium carbon was filtered off from the reaction solution, and the reaction solution was then concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate/methanol), followed by solidification from a mixed solution consisting of ethyl acetate, t-butylmethyl ether, and methanol, so as to obtain 973 mg of the subject compound.

reactant | N-methyl-1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxamide | 1.77 g | CNC(=O)C1=CC=C2C=CN(C2=C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C23H25N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium carbon | 200 mg | [C].[Pd]
product | N-methyl-1-(piperidin-4-yl)-1H-indole-6-carboxamide | 973 mg | CNC(=O)C1=CC=C2C=CN(C2=C1)C1CCNCC1 | C15H19N3O
